US03941782
3 n -pentyl-1-[4-(piperidino)butyryloxy]-6,6,9-trimethyl-6a,7,8,10 a-tetrahydrodibenzo[ b,d] pyran hydrochloride
0.46 g. (1.47 mmoles) of 1-Hydroxy-3 -n -pentyl-6,6,9-trimethyl-6a,7,8,10 a-tetrahydrodibenzo[ b,d] pyran, 0.31 g. (1.47 mmoles) of γ-piperidinobutyric acid hydrochloride and 0.32 g. (1.55 mmoles) of dicyclohexylcarbodiimide were combined in 25 ml. of methylene chloride and stirred at room temperature for 4 hours. The insoluble by-product of dicyclohexylurea was removed by filtration and the methylene chloride was evaporated to give a gummy, yellowish residue. The gummy material was triturated several times with petroleum ether and dried in vacuo to give 350 mg. of product as a colorless foam-like solid. The sample was pure by thin-layer chromatography (10% MeOH/CHCl3) and the infrared spectrum was consistent with the proposed structure.

reactant | 1-Hydroxy-3 -n -pentyl-6,6,9-trimethyl-6a,7,8,10 a-tetrahydrodibenzo[ b,d] pyran | 1.47 mmoles | OC1=CC(=CC=2OC(C3C(C21)C=C(CC3)C)(C)C)CCCCC | C21H30O2
reactant | γ-piperidinobutyric acid hydrochloride | 1.47 mmoles | Cl.N1(CCCCC1)CCCC(=O)O
reactant | dicyclohexylcarbodiimide | 1.55 mmoles | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
product | n -pentyl-1-[4-(piperidino)butyryloxy]-6,6,9-trimethyl-6a,7,8,10 a-tetrahydrodibenzo[ b,d] pyran hydrochloride | Cl.C(CCCC)C1=C(C2=C(OC(C3C2C=C(CC3)C)(C)C)C=C1)OC(CCCN1CCCCC1)=O | InChI=1S/C30H45NO3.ClH/c1-5-6-8-12-23-15-17-26-28(24-21-22(2)14-16-25(24)30(3,4)34-26)29(23)33-27(32)13-11-20-31-18-9-7-10-19-31;/h15,17,21,24-25H,5-14,16,18-20H2,1-4H3;1H
